### PR TITLE
replyPop lemmas in Finalise_R

### PR DESCRIPTION
**Pull request by VictorPhan**
Rebased and cleaned up work for replyPop_invs'.
Ready to be reviewed, but yet to add fixes to broken proofs in later theory files due to these changes.

### CODE REVIEW

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 1]
```diff
@@ -80,14 +80,13 @@ This module specifies the behavior of reply objects.
 >     when (nextReplyPtrOpt /= Nothing) $ do
 >         assert (isHead nextReplyPtrOpt) "the reply must be at the head"
 >         scPtr <- return $ theHeadScPtr nextReplyPtrOpt
->         tcbScPtrOpt <- threadGet tcbSchedContext tcbPtr
```
Comment (VictorPhan) [inline spec/haskell/src/SEL4/Object/Reply.lhs:83]: spec update for replyPop, to be removed when @mktnk3's [PR](https://github.com/seL4/l4v/pull/185) is merged

File: proof/refine/ARM/Finalise_R.thy [hunk 2]
```diff
@@ -2326,6 +2326,327 @@ lemma replyClear_invs'[wp]:
...
+   \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
+  apply (case_tac next_opt
+         ; wpsimp wp: updateReply_valid_objs' simp: valid_reply'_def)
+  by (case_tac a; clarsimp)
+
+lemma replyPop_valid_objs'[wp]:
+  "replyPop replyPtr tcbPtr \<lbrace>valid_objs'\<rbrace>"
+  unfolding replyPop_def
+  supply if_split[split del]
+  apply (wpsimp wp: schedContextDonate_valid_objs' hoare_vcg_if_lift_strong threadGet_const)
```
Comment (VictorPhan) [inline proof/refine/ARM/Finalise_R.thy:2425]: These lemmas use `schedContextDonate` lemmas so we need to wait for @corlewis's [PR](https://github.com/seL4/l4v/pull/245) moving these lemmas up before merging.

File: proof/refine/ARM/Finalise_R.thy [hunk 3]
```diff
@@ -2326,6 +2326,327 @@ lemma replyClear_invs'[wp]:
...
+             apply (wpsimp wp: gts_wp')+
+  apply (clarsimp simp: isHead_to_head split: if_splits)
+  apply (intro conjI | clarsimp)+
+          apply auto
+              prefer 7
+              apply (erule if_live_then_nonz_capE')
+              apply (clarsimp simp: obj_at'_real_def ko_wp_at'_def projectKOs live_sc'_def)
+             apply (erule if_live_then_nonz_capE')
+             apply (clarsimp simp: obj_at'_real_def ko_wp_at'_def projectKOs live_sc'_def)
+  sorry
```
Comment (VictorPhan) [inline proof/refine/ARM/Finalise_R.thy:2561]: @MitchellBuckley this is the lemma we discussed you should take a look at

**Comment by mktnk3** [comment]
It looks like there are several files that shouldn’t be included in the PR. Some kind of temp/backup files. You need to remove them.

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -2860,12 +2829,20 @@ lemma schedContextDonate_invs':
    apply (rule_tac hoare_weaken_pre[OF hoare_pre_cont])
    apply (clarsimp simp: obj_at'_def sym_refs_asrt_def)
   apply (wp schedContextDonate_valid_pspace' schedContextDonate_vrq
-                    schedContextDonate_valid_queues schedContextDonate_valid_queues'
-                    schedContextDonate_valid_idle' schedContextDonate_if_live_then_nonz_cap')
+            schedContextDonate_valid_queues schedContextDonate_valid_queues'
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2832]: It seems unusual that so many of these were added in, is there an innocent reason for this?

File: proof/refine/ARM/Finalise_R.thy [hunk 5]
```diff
@@ -3882,7 +4296,7 @@ lemma replyPop_valid_inQ_queues[wp]:
                     threadGet_wp
          | intro conjI impI)+
   apply (clarsimp simp: obj_at'_def projectKOs)
-  done
+  sorry
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Finalise_R.thy:4299]: Is there a plan with this sorry? (And some similar sorries which don't have any comments attached to them).

File: proof/refine/ARM/Finalise_R.thy [hunk 6]
```diff
@@ -2315,9 +2315,530 @@ lemma replyUnlink_invs'[wp]:
...
+  apply (frule_tac k=koa in sc_ko_at_valid_objs_valid_sc', simp)
+  apply (clarsimp simp: valid_sched_context'_def valid_bound_reply'_def
+                        valid_sched_context_size'_def sc_size_bounds_def objBits_def objBitsKO_def
+                        reply_ko_at_valid_objs_valid_reply'
+                 split: option.split)
+  apply (frule_tac k=ko in reply_ko_at_valid_objs_valid_reply', simp)
+  apply (clarsimp simp: valid_reply'_def)
+  done
+
+lemma valid_dom_schedule'_lift:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Finalise_R.thy:2810]: Excellent! Nitpick: please move this up to Invariants_H or similar.

File: proof/refine/ARM/Finalise_R.thy [hunk 7]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
+  and no_0_obj'[wp]: no_0_obj'
+  and valid_dom_schedule'[wp]: valid_dom_schedule'
+  (simp: crunch_simps rule: valid_dom_schedule'_lift)
+
+lemma replyNext_update_valid_objs':
+  "\<lbrace>valid_objs' and
+      (\<lambda>s. ((\<forall>r. next_opt = Some (Next r) \<longrightarrow> reply_at' r s) \<and>
+            (\<forall>sc. next_opt = Some (Head sc) \<longrightarrow> sc_at' sc s)))\<rbrace>
+   updateReply replyPtr (replyNext_update (\<lambda>_. next_opt))
+   \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:2417]: Nice!

File: proof/refine/ARM/Finalise_R.thy [hunk 8]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
+  unfolding replyPop_def
+  supply if_split[split del]
+  apply (wpsimp wp: schedContextDonate_if_live_then_nonz_cap' hoare_vcg_if_lift2 hoare_vcg_conj_lift
+                    hoare_vcg_imp_lift' threadGet_const)
+                  apply (wp updateReply_obj_at'_only_st_qd_ft)
+                 apply (wpsimp wp: updateReply_iflive'_strong replyNext_update_valid_objs')
+                apply (wpsimp wp: replyNext_update_valid_objs' hoare_vcg_imp_lift')+
+  sorry
+
+lemma updateReply_obj_at'_sc_state:
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:2548]: Is this lemma name what it is supposed to be?

File: proof/refine/ARM/Finalise_R.thy [hunk 9]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
   apply wpsimp
   sorry
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:2327]: Will this be the last sorry in Finalise_R?

**Review by mktnk3 — COMMENTED** [review]
I haven't quite finished reviewing yet, but I'll send the comments so far for now. Will continue tomorrow.

File: proof/refine/ARM/Finalise_R.thy (hunk 8 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2548]: Oh I haven't updated the name for this one after creating it. Maybe `updateReply_obj_at'_sc_ksIdleThread`?

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (VictorPhan) [reply proof/refine/ARM/Ipc_R.thy]: Was just temporary, it's removed now

File: proof/refine/ARM/Finalise_R.thy (hunk 5 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy]: This is beyond the scope of my PR, but it changed because of the replyPop spec tweaks.

File: proof/refine/ARM/Finalise_R.thy [hunk 10]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
 
+lemma isHeadSome:
+ "isHead (Some h) \<longleftrightarrow> (\<exists>p. h = Head p)"
+  by (clarsimp simp: isHead_def split: reply_next.split)
+
+lemma replyPrev_list_refs_of_replies':
+  "\<lbrakk>ko_at' reply replyPtr s; replyPrev reply = Some prevReply\<rbrakk>
+     \<Longrightarrow> (prevReply, ReplyPrev) \<in> list_refs_of_replies' s replyPtr"
+  by (clarsimp simp: obj_at'_def projectKOs list_refs_of_replies'_def opt_map_def
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2336]: This lemma is unused, so I'll remove it instead

File: proof/refine/ARM/Finalise_R.thy [hunk 11]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
+                     list_refs_of_reply'_def
+              split: option.splits)
+
+lemma list_refs_of_replies'_eq:
+  "ko_at' reply replyPtr s \<Longrightarrow> list_refs_of_replies' s replyPtr = list_refs_of_reply' reply"
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2341]: Unused; removed.

File: proof/refine/ARM/Finalise_R.thy [hunk 12]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
+  shows "R"
+  using in_list
+  apply (clarsimp simp: list_refs_of_replies'_def list_refs_of_reply'_def in_get_refs
+                 split: option.splits)
+  by (auto elim: nextR prevR simp: opt_map_def)
+
+lemma sym_refs_replyNext:
+  "\<lbrakk>sym_refs (list_refs_of_replies' s); replyPrev reply = Some prevReplyPtr;
+    ko_at' reply replyPtr s; ko_at' prevReply prevReplyPtr s\<rbrakk>
+     \<Longrightarrow> replyNext prevReply = Some (Next replyPtr)"
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2359]: Removed; replaced.

File: proof/refine/ARM/Finalise_R.thy (hunk 9 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2327]: There is also `replyPop_iflive` and `replyRemove_corres` left

File: proof/refine/ARM/Finalise_R.thy [hunk 13]
```diff
@@ -2326,6 +2326,295 @@ lemma replyClear_invs'[wp]:
...
+
+lemma replyUnlink_ko_at'_reply_sp:
+  "\<lbrace>ko_at' reply replyPtr\<rbrace>
+   replyUnlink replyPtr tcbPtr
+   \<lbrace>\<lambda>rv. ko_at' (reply\<lparr>replyTCB := None\<rparr>) replyPtr\<rbrace>"
+  apply (simp add: replyUnlink_def)
+  by (wpsimp wp: updateReply_ko_at'_reply_sp hoare_vcg_imp_lift
+           simp: replyUnlink_assertion_def)
+
+lemma hoare_vcg_conj_lift':
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:2379]: It's unused, but since it's generic enough, I'll leave it in (and move it to Lib).

File: proof/refine/ARM/Finalise_R.thy (hunk 8 above)
Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy:2548]: yes, that sounds good!

File: proof/refine/ARM/Finalise_R.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Finalise_R.thy:2546]: I believe that Michael took a look at this. I suppose his work should be cherry-picked on top here?

**Review by MitchellBuckley — APPROVED** [review]
Looks nice!
I assume that the single added sorry will be resolved before merging, or perhaps it will stay in here and be removed shortly afterwards with a separate PR?

File: proof/refine/ARM/Finalise_R.thy (hunk 5 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy]: Was a quick fix so I'm it in this PR

File: proof/refine/ARM/Finalise_R.thy [hunk 14]
```diff
@@ -3997,20 +3968,22 @@ lemma replyPop_valid_inQ_queues[wp]:
   apply (wpsimp wp: schedContextDonate_valid_inQ_queues replyUnlink_valid_objs')
      apply (rule_tac Q="\<lambda>_. valid_inQ_queues and valid_objs' and tcb_at' tcbPtr" in hoare_strengthen_post[rotated])
       apply clarsimp
-     apply (wpsimp wp: updateReply_valid_objs' hoare_vcg_if_lift)+
```
Comment (VictorPhan) [inline proof/refine/ARM/Finalise_R.thy:3760]: will change this line back

**Comment by VictorPhan** [comment]
Commits are cleaned up now, @michaelmcinerney will handle merging with his cherry-picked commit after he rebases his awaken PR.

File: proof/refine/ARM/Finalise_R.thy (hunk 9 above)
Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy:2327]: Michael took care of the first and the latter is a temporary sorry for what Corey is currently working on in IpcCancel_R.
